US04482552
5-[[3-[3-[[(2-Furanylmethyl)amino]methyl]phenoxy]propyl]amino]-1-methyl-α-phenyl-1H-1,2,4-triazole-3-methanol
A solution of 5-[[3-(3-formylphenoxy)propyl]amino]-1-methyl-α-phenyl-1H-1,2,4-triazole-3-methanol acetate (ester) (1.0 g) and furfurylamine (5 ml) in ethanol (30 ml) was stirred at 21° for 1.5 h before a suspension of sodium borohydride (1.3 g) in ethanol (10 ml) was added and stirring was continued for a further 16 h at 21°. Water (20 ml) was added, the mixture concentrated to remove ethanol and the aqueous residue extracted with 4-methylpentan-2-one. The extract was dried and evaporated to give an oil. Excess furfurylamine was removed in vacuo and the residue was dissolved in 2N hydrochloric acid, the acidic layer washed with ethyl acetate, basified (pH 9) with sodium carbonate, and extracted with 4-methylpentan-2-one. The extract was washed with water, dried and evaporated to give a brown gum (0.65 g) which was chromatographed on silica (Merck No. 7729) using System B as eluent to give the title compound (0.5 g) as a pale orange gum.

reactant | 5-[[3-(3-formylphenoxy)propyl]amino]-1-methyl-α-phenyl-1H-1,2,4-triazole-3-methanol acetate | 1.0 g | C(C)(=O)OC(C1=NN(C(=N1)NCCCOC1=CC(=CC=C1)C=O)C)C1=CC=CC=C1 | C22H24N4O4
reactant | furfurylamine | 5 ml | C(C1=CC=CO1)N | C5H7NO
reactant | sodium borohydride | 1.3 g | [BH4-].[Na+]
reactant | Water | 20 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-[[3-[3-[[(2-Furanylmethyl)amino]methyl]phenoxy]propyl]amino]-1-methyl-α-phenyl-1H-1,2,4-triazole-3-methanol | 0.65 g | O1C(=CC=C1)CNCC=1C=C(OCCCNC2=NC(=NN2C)C(O)C2=CC=CC=C2)C=CC1 | C25H29N5O3
